Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Seizure Activity
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Mr. ___ is a ___ y/o M with hx of alcohol abuse (denies 
withdrawal sz) and possible epilepsy, reportedly on 
levetiracetam, oxcarbazepine and lacosamide, presenting with 
seizure at home as well as alcohol intoxication. Pt presented to 
___ family requested section 35 in order for pt to 
undergo involuntary rehab; however, it is required that pt 
undergo continuous EEG and medical clearance, and so patient was 
transferred to ___.  
 Pt reportedly has daily seizures and drinks 375 mL vodka/day, 
last drink several days ago. Patient does not know his AEDs and 
no family members or pharmacy was available for confirmation. 
Patient was also unable to confirm history.  
 In the ED, initial vitals were: 98.1 76 135/83 18 98% RA  
 Exam notable for pt who was disoriented, inattentive, with gaze 
showing b/l nystagmus, inability to ambulate due to 
intoxication.  
 No labs drawn in ___ ED.  
 Labs from ___:  
 CBC WBC 5.7 H/H ___ Plt 111  
 Chem-7: ___ Ca 8.4  
 Lactate 2.4  
 ETOH: 270  
 UTox: Positive for UTHC. Negative for amphetamines, 
barbituates, benzos, cocaine, methadone, opiates. UA WNL.  
 No imaging was done.  
 Neurology was consulted and recommended no concern for ongoing 
seizures or nonconvulsive status and did not feel that cEEG was 
necessary. Recommended drawing AED levels and treating for 
alcohol withdrawal, and admit to medicine for alcohol detox with 
neurology to follow.  
 Patient was given nicotine patch, levetiracetam 1500 mg and 
oxcarbazepine 600 mg.  
 Vitals prior to transfer: 81 135/81 16 96% RA  
 On the floor, pt is appropriate, eating sandwich. Per RN, pt 
had 10 second episode of body shaking that resolved, no post 
ictal confusion. Pt reports that he feels well. No current 
complaints, feels a little shaky. Reports that his daily 
seizures occur between ___ times per day, last ___ min, and 
consistent of upper body shaking. Reports no missed doses of 
AEDs.  
 
 ROS: 10 point ROS reviewed and negative except as noted per 
HPI.  
 
Past Medical History:
- Seizure disorder (grand mal seizures as a child, then in 
remission for many years until recent recurrence) 
- ETOH Abuse
 
Social History:
___
Family History:
No family history of seizure
 
Physical Exam:
=================
ADMISSION EXAM
=================
Vital Signs: 98.3 141/96 85 18 98 RA  
 General: Flushed gentleman with long gray hair sitting upright 
in bed eating a sandwich, slightly tremulous  
 HEENT: Anicteric sclerae, MM appear dry, white film on tongue  
 CV: RRR S1+S2 no m/r/g  
 Lungs: CTAB  
 Abdomen: Soft, NT/ND, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, no edema.  
 Neuro: AAOx2-3 (thinks at ___, knows date). CN II-XII intact. 
___ strength.  
 Skin: flushed, tattoos over upper back and arms  

=================
DISCHARGE EXAM
=================
VS: 98.2 ___ 16 100%RA  
 All CIWA scores 1 for tremor x 24hrs.  
 General: Middle-aged gentleman in NAD with long gray hair 
sitting upright in bed.  
 HEENT: Anicteric sclerae, MMM, white film on tongue  
 CV: RRR S1+S2 no m/r/g  
 Lungs: CTAB. No crackles, rhonchi.  
 Abdomen: Soft, NT/ND, no rebound or guarding. No hepatomegaly 
appreciated.  
 GU: No foley  
 Ext: Warm, well perfused, no edema.  
 Neuro: AAOx3. CN II-XII intact. ___ strength. Sensation intact 
to light touch. No cerebellar ataxia. Mild bilateral hand 
tremor.  
 Skin: Does not appear flushed.  

 
Pertinent Results:
=================
ADMISSION LABS
=================
___ 06:05AM BLOOD WBC-4.3 RBC-5.16 Hgb-16.2 Hct-48.3 MCV-94 
MCH-31.4 MCHC-33.5 RDW-14.6 RDWSD-50.5* Plt Ct-87*
___ 06:05AM BLOOD Plt Smr-LOW Plt Ct-87*
___ 06:05AM BLOOD Glucose-173* UreaN-8 Creat-0.8 Na-140 
K-3.6 Cl-102 HCO3-23 AnGap-19
___ 06:05AM BLOOD ALT-22 AST-45* LD(LDH)-164 AlkPhos-107 
TotBili-1.6*
___ 06:05AM BLOOD Calcium-8.6 Phos-2.2* Mg-1.5*
___ 06:05AM BLOOD TSH-1.1

===============
INTERIM LABS
===============
___ 06:15AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative
___ 06:15AM BLOOD HCV Ab-Negative

=================
DISCHARGE LABS
=================
___ 07:10AM BLOOD WBC-4.4 RBC-4.97 Hgb-16.0 Hct-47.6 MCV-96 
MCH-32.2* MCHC-33.6 RDW-15.0 RDWSD-51.7* Plt Ct-75*
___ 07:10AM BLOOD Glucose-103* UreaN-11 Creat-0.8 Na-139 
K-3.9 Cl-102 HCO3-25 AnGap-16
___ 07:10AM BLOOD Calcium-9.3 Phos-3.7 Mg-2.0

==============
MICROBIOLOGY
==============
NONE

================
IMAGING/STUDIES
================
CXR ___ IMPRESSION:  
No acute cardiopulmonary process. 

EEG RESULTS ___ IMPRESSION: This is an abnormal continuous 
ICU monitoring study because (1) rare isolated sharp transient 
in the left temporal region, suggestive of an area of cortical 
irritability; (2) excessive theta activity during wakefulness, 
suggestive of a mild encephalopathy. There are no electrographic 
seizures. 

US LIVER/GALLBLADDER ___ IMPRESSION: 
1. Cirrhotic liver, without evidence of focal lesion, 
splenomegaly, or ascites. 
2. Cholelithiasis and ___ile duct.  Correlate with 
LFTs.  If additional evaluation is required, MRCP can be 
performed. 

EEG RESULTS ___ IMPRESSION: This is an abnormal continuous 
ICU EEG monitoring study because of a poorly modulated slightly 
slower than normal background consistent with a mild 
encephalopathy. Infrequent left anterior temporal sharp and slow 
wave epileptiform discharges were also seen in drowsiness. These 
were not repetitive nor rhythmic, and may be consistent with a 
focal area of potential epileptogenesis. No electrographic 
seizures were seen. 

EEG ___ IMPRESSION: This is an abnormal continuous ICU EEG 
monitoring study because of a slower than normal background 
consistent with a mild encephalopathy. Focal left temporal 
discharges were also identified; these were not repetitive nor 
rhythmic but could represent a potential area of 
epileptogenesis. No ongoing seizures were identified. Compared 
to the prior day's recording, there are no significant changes. 
Findings were provided to the treating team intermittently 
during this recording period. 

MRI BRAIN SEIZURE PROTOCOL ___ IMPRESSION: 
1.  Study is mildly degraded by motion. 
2.  Within limits of study, no evidence of intracranial mass. 
3. Age advanced prominence of the ventricles and sulci, may be 
sequelae of patient's chronic alcohol use. 
4. White matter lesion as described.  While findings are likely 
microangiopathic changes, differential considerations include 
sequela of prior trauma or infection, history of migraine 
headaches, inflammatory or 
demyelinating process.  If concern for active demyelinating 
process, consider contrast enhanced brain MRI for further 
evaluation. 
5. Nonspecific bilateral hippocampal formation atrophy as 
described. 
6.  Paranasal sinus disease as described. 

 
Brief Hospital Course:
___ y/o M with PMH ETOH abuse (drinking 1 pint vodka daily), 
unspecified seizure disorder, presented to OSH ED for evaluation 
following a seizure. Patient states he has had ___ seizure 
episodes daily. Sometimes episodes are staring off into space, 
others are local jerking of his arms or legs. On Keppra, 
Oxcarbazepine, Lacosamide for anti-epleptics, although reports 
that he is not taking Lacosamide. He was transferred to ___ 
for EEG monitoring. Neurology was consulted and recommended 
continuous EEG monitoring, MRI brain, which were both 
unrevealing. Patient did have 3 episodes of witnessed seizure 
activity while inpatient. Once was staring off into space x 
___ sec and once was witnessed by nursing and residents as ___ 
min of bilateral lower extremity jerking without LOC. Patient 
also had 1 generalized seizure >3min on ___ requiring 2mg Ativan 
IV to break the seizure. Patient was also placed on CIWA 
protocol given h/o ETOH use. Last drink was day of admission to 
hospital. Patient maximum CIWA score was 4, and he did not 
received any benzodiazepines. He was discharged to follow up 
final neurology results of EEG with the ___ Seizure Clinic. 
Patient was also encouraged to stop drinking. While inpatient, 
given his ETOH, a liver ultrasound was performed showing 
evidence of cirrhosis. Since patient not acutely 
encephalopathic, deferred work up for outpatient setting. 

# SEIZURE DISORDER, UNSPECIFIED: Patient has known history of 
unspecified seizure disorder. He reports history of grand mal 
seizures as a child. He currently has multiple seizures a day 
that last anywhere from 10 seconds to 5 min. Sometimes episodes 
are staring off into space versus isolated jerking in 
extremities. Of note, patient has no history of ETOH withdrawal 
seizures and did not score CIWAs high enough to require 
benzodiazepines during this admission, although patient 
understood ETOH use likely lowers his seizure threshold. On 
admission, patient was evaluated by the neurology team who 
recommended spot EEG testing and continuation of home 
antiepileptic regimen. Throughout the admission, patient was 
placed on seizure precautions and followed by neurology. He had 
multiple episodes of possible witness seizures including an 
episode of gazing off into space, a partial seizure with 
isolated bilateral lower extremity jerking that resolved without 
Ativan after ___ minutes. On ___ patient had a generalized 
seizure with some tonic/clonic movements, unresponsiveness that 
lasted >3 minutes and required 2mg IV Ativan to break the 
seizure. Patient received continuous EEG monitoring as well as 
an MRI brain seizure protocol to evaluate for possible 
etiologies of his seizures. MRI was consistent with no 
intracranial masses, positive atrophy consistent with ETOH 
abuse, but otherwise no other convincing findings for seizure. 
EEG showed abnormalities but also was difficult to determine 
underlying cause for seizures. Neurology team recommended 
outpatient follow up with their seizure clinic since patient has 
been lost to follow up. At discharge he was continued on his 
home dose of levatiraetam, oxcarbazepine. Lacosamide was 
discontinued since patient reported not taking this medication 
for many months prior to admission.  
 
 # ETOH ABUSE: Patient has known history of ETOH abuse, 
currently drinks 1 pint of vodka daily. His sister is very 
concerned about the patient's safety and is interested in 
pursuing section 35 of the patient for ___ rehab. However, 
this was unable to be obtained while patient was admitted to the 
hospital. Patient's last drink was on day of admission. His ETOH 
level was >200. Patient denied history of ETOH withdrawal. He 
was placed on CIWA protocol with PRN diazepam. He was also given 
IV thiamine, oral MVI and folate. Social work was consulted who 
repeatedly discussed ETOH abuse with the patient. Patient 
declined day programs and ___ rehab. Patient maximum CIWA 
score was 4 on hospital day 1 due to tremors and anxiety, but 
quickly CIWAs decreased to 1. Patient did not require 
benzodiazepines while inpatient.  

 #?Cirrhosis: Given h/o ETOH abuse and concern for developing 
liver disease with noted asterixis/hand tremor early in 
admission, liver ultrasound was obtained that was consistent 
with cirrhosis. LFTs showed mildly elevated AST and T bili but 
were otherwise unremarkable. Hepatitis serologies were negative 
for HBV, HCV. Recommend outpatient follow up for further work-up 
of ETOH cirrhosis and treatment.

=====================
TRANSITIONAL ISSUES:
=====================
#Seizure Disorder: F/u at Seizure Clinic at ___
#ETOH Abuse: Denied rehab/day programs offered by social work 
multiple times. 
#Cirrhosis: Will need outpatient work-up of cirrhosis following 
ultrasound results.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 1500 mg PO BID 
2. OXcarbazepine 600 mg PO BID 
3. LACOSamide 200 mg PO BID 

 
Discharge Medications:
1.  LevETIRAcetam 1500 mg PO BID  
2.  OXcarbazepine 600 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses: Unspecified seizure disorder, ETOH abuse, 
Cirrhosis

Secondary Diagnoses: None

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___. 

Why you were admitted to the hospital:
- You were admitted for an EEG study of your brain to evaluate 
your seizures.
- You were admitted for monitoring for alcohol withdrawal. 

What happened while you were in the hospital:
- You were seen by the Neurology team who ordered continuous EEG 
testing of your brain and an MRI to see what happens when you 
have a seizure. The final results of these tests are pending. 
- You had an MRI of your brain which did not show any underlying 
cause of your seizures.

What you need to do when you leave the hospital:
- You should follow up with our outpatient neurology seizure 
clinic.
- Continue taking all of your anti-seizure medications as 
prescribed. 
- We encourage you to avoid alcohol use since it is likely 
causing increased seizures.
- Please follow up with your primary ___ doctor. 

It was a pleasure taking ___ of you at ___.
___,
Your ___ ___ Team
 
Followup Instructions:
___